US04956359
3-(4-Bromophenoxy)-1-azetidinecarbonyl chloride
A stirred solution of 18.8 g (0.192 mole) of phosgene in 100 ml of methylene chloride was cooled to 15° C. in a water bath, then treated with 26.5 g (0.192 mole) of potassium carbonate. After stirring for 30 min, 63 g (0.16 mole) of 3-(4-bromophenoxy)-1-diphenylmethylazetidine in 180 ml of methylene chloride was added dropwise and stirring continued for 18 hr. The reaction mixture was diluted with ice water to dissolve the inorganic salts, the aqueous portion was separated and the organic phase washed with 25 ml of ice water. After separation, the methylene chloride solution was dried with magnesium sulfate, then concentrated in vacuo to a viscous yellow oil. Trituration of the residue with 30/60 petroleum ether yielded a crystalline product, 76.9 g, which was recrystallized from isopropyl ether-ligroin (50-50) to yield 34.8 g (74.8%) of white granular crystals, m.p. 77°-78° C.

reactant | phosgene | 0.192 mole, 18.8 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 0.192 mole, 26.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-bromophenoxy)-1-diphenylmethylazetidine | 0.16 mole, 63 g | BrC1=CC=C(OC2CN(C2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C22H20BrNO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Bromophenoxy)-1-azetidinecarbonyl chloride | 34.8 g, 74.8% | BrC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9BrClNO2
